US06613942B1
Preparation of 4-(2-Bromoethoxy)-3,5-dibromobenzaldehyde
1,2-Dibromoethane (62 mL, 0.72 moles) was added to a mixture of 3,5-dibromo-4-hydroxybenzaldehyde (10 g, 36 mmoles) and potassium carbonate (25 g, 180 mmoles) in DMF (100 ml) and the resulting mixture was stirred vigorously at 70° C. for 16 hours. After cooling, the mixture was poured into water (300 mL) and extracted with ethyl acetate (400 mL). Water (200 mL) was added to the aqueous phase and this was extracted with ethyl acetate (150 mL). The combined organic phases were washed with saturated sodium chloride (3×150 mL), dried over MgSO4 and evaporated in vacuo. The residue was dissolved in refluxing 96% ethanol (60 mL). Water (15 mL) was added and after cooling, filtration, washing with 60% ethanol and drying 10.7 g (77%) of 4-(2-bromoethoxy)-3,5-dibromobenzaldehyde was isolated in two crops. M.p. 84-85° C.

reactant | 1,2-Dibromoethane | 0.72 moles, 62 mL | BrCCBr | C2H4Br2
reactant | 3,5-dibromo-4-hydroxybenzaldehyde | 36 mmoles, 10 g | BrC=1C=C(C=O)C=C(C1O)Br | C7H4Br2O2
reactant | potassium carbonate | 180 mmoles, 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 mL | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(2-Bromoethoxy)-3,5-dibromobenzaldehyde | BrCCOC1=C(C=C(C=O)C=C1Br)Br | C9H7Br3O2
